US05569768
2-(3-Methylphenyl)benzonitrile (18.1 mmoles, 3.5 g) was added slowly at -5° C. to a mixture of 10 ml nitric acid and 10 ml sulfuric acid. After 5 minutes, the reaction was diluted with cold water. The solid was collected, dissolved in THF. The solution was dried and concentrated. The solid was recrystallized from ether and hexane to yield 2.45 g of 2-(3-methyl-4-nitrophenyl)benzonitrile. (MS)

reactant | 2-(3-Methylphenyl)benzonitrile | 18.1 mmoles, 3.5 g | CC=1C=C(C=CC1)C1=C(C#N)C=CC=C1 | C14H11N
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-(3-methyl-4-nitrophenyl)benzonitrile | 2.45 g | CC=1C=C(C=CC1[N+](=O)[O-])C1=C(C#N)C=CC=C1 | C14H10N2O2
